US09328112B2
tert-butyl but-3-en-1-yl(but-3-yn-1-yl)carbamate
To a solution of but-3-en-1-amine, hydrochloric acid (10 g, 93 mmol) and but-3-yn-1-yl 4-methylbenzenesulfonate (18 g, 80 mmol) in acetonitrile (803 mL) was added potassium carbonate (55.5 g, 401 mmol) and the mixture was stirred at 85° C. for 3 days and cooled to room temperature. Di-tert-butyl dicarbonate (21.02 g, 96 mmol) was added portionwise, with gas evolution observed for 20-30 minutes. The mixture was stirred overnight at room temperature, filtered through diatomaceous earth, concentrated and purified by flash chromatography on silica using an Analogix system (0-5% ethyl acetate/heptane) to provide the title compound. MS (ESI+) m/z 224 (M+H)+.

reactant | but-3-en-1-amine | C(CC=C)N | C4H9N
reactant | hydrochloric acid | 93 mmol, 10 g | Cl | ClH
reactant | but-3-yn-1-yl 4-methylbenzenesulfonate | 80 mmol, 18 g | CC1=CC=C(C=C1)S(=O)(=O)OCCC#C | C11H12O3S
reactant | potassium carbonate | 401 mmol, 55.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | Di-tert-butyl dicarbonate | 96 mmol, 21.02 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | acetonitrile | 803 mL | C(C)#N | C2H3N
product | tert-butyl but-3-en-1-yl(but-3-yn-1-yl)carbamate | C(CC=C)N(C(OC(C)(C)C)=O)CCC#C | C13H21NO2
